US09376388B2
Isopropyl 3,6-difluoropicolinate
Anhydrous 2-propanol (0.361 g, 6 mmol) and anhydrous tri-ethylamine (0.405 g, 4 mmol) were added dropwise at room temperature to the 3,6-difluoropicolinoyl fluoride provided above. The mixture was stirred at room temperature for 6 hours, poured into a reparatory funnel with water and extracted with ethyl ether. The organic phase was then washed with water and dried over MgSO4. The solvent was removed with a rotary evaporator. The concentrated crude product was purified using column chromatography (silica gel) with ethyl acetate/hexanes mixture ( 1/10) as eluent to give 0.39 g (48% yield, 99% GC purity, 98% LC purity) of desired product as a pale yellow liquid. GC/MS results were consistent with the chemical formula of isopropyl 3,6-difluoropicolinate: 70 eV EIMS (GC) m/z=160 (41%), 142 (100%), 115 (43%), 114 (66%), 64 (31%), 43 (51%). 1H NMR (400 MHz, CDCl3) δ 7.69 to 7.63 (m, 1H), 7.16 to 7.12 (m), 5.33 (hept, J=6.3 Hz, 1H), 1.41 (d, J=6.3 Hz, 6H). 13C NMR (101 MHz, CDCl3) δ 161.41 (d, J=6.3 Hz), 158.80 (d, J=1.2 Hz), 158.26 (d, J=4.3 Hz), 156.41 (d, J=1.2 Hz), 155.62 (d, J=4.4 Hz), 134.05 (t, J=13.5 Hz), 131.06 (dd, J=23.9, 8.3 Hz), 114.86 (dd, J=41.7, 5.9 Hz), 70.34 (s), 21.71 (s). 19F NMR (376 MHz, CDCl3) δ −69.40 (d, J=26.9 Hz), −122.76 (d, J=27.4 Hz).

reactant | 2-propanol | 6 mmol, 0.361 g | CC(C)O | C3H8O
reactant | tri-ethylamine | 4 mmol, 0.405 g | C(C)N(CC)CC | C6H15N
reactant | 3,6-difluoropicolinoyl fluoride | FC=1C(=NC(=CC1)F)C(=O)F | C6H2F3NO
solvent | water | O | H2O
product | Isopropyl 3,6-difluoropicolinate | 48% yield | FC=1C(=NC(=CC1)F)C(=O)OC(C)C | C9H9F2NO2
